data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4109,4702,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[N:16]=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,35.31555176323157,4.589961628310639
1469,1620,[CH3:15][O:16][C:17](=[O:18])[C-:19]([CH3:20])[NH+:21]=[C:22]([C:23]#[N:24])[C:25]([CH3:26])=[O:27].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:22]([C:23]#[N:24])([C:25]([CH3:26])=[O:27])[NH:21][C:19]2([C:17]([O:16][CH3:15])=[O:18])[CH3:20],water,298.15,22.95802461163476,-19.251713864782523
632,692,[CH3:10][O:11][C:12](=[O:13])[C-:14]([CH3:15])[O+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([O:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]3([C:18]#[N:19])[C:20]([CH3:21])=[O:22],water,298.15,6.7723997736750645,-59.892395809603
4495,5128,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][CH-:16][C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:15][CH:16]1[C:17]#[N:18],water,298.15,12.528260647369573,-42.5467444195941
2881,3201,[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]#[C:9][C:10]([C:11]([CH3:12])=[O:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([O+:27]=[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[c:41]1[cH:42][cH:43][cH:44][cH:45][cH:46]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]2=[C:9]([C:10]([C:11]([CH3:12])=[O:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[C:28]([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)([c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1)[O:27][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[c:41]1[cH:42][cH:43][cH:44][cH:45][cH:46]1,water,298.15,20.00716958288391,-31.4180815329083
2079,2306,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([C:21]#[N:22])[N+:23]([CH3:24])=[C:25]([CH3:26])[C:27](=[O:28])[O:29][CH3:30].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[O:9][CH3:10])[CH:11]2[CH2:12][CH2:13][CH:14]1[CH2:15]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[O:9][CH3:10])([CH:11]3[CH2:12][CH2:13][CH:14]1[CH2:15]3)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:21]#[N:22])[N:23]([CH3:24])[C:25]2([CH3:26])[C:27](=[O:28])[O:29][CH3:30],water,298.15,29.812585371046143,-9.693526639749594
4787,5465,[CH3:10][C-:11]([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[N+:18]([CH3:19])=[CH:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:11]([CH3:10])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[N:18]([CH3:19])[CH:20]1[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,13.679757909042308,-29.36983905363691
4946,5632,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:18]([C:19]([CH3:20])=[O:21])([c:22]2[cH:23][cH:24][cH:25][cH:26][cH:27]2)[O:17][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:15]#[N:16],water,298.15,5.042797427449204,-42.92576838696925
1352,1482,[CH3:15][NH:16][C:17](=[O:18])[N-:19][O+:20]=[N:21][C:22](=[O:23])[O:24][CH3:25].[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[Cl:1][C:2]1=[C:3]([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[N:19]([C:17]([NH:16][CH3:15])=[O:18])[O:20][N:21]3[C:22](=[O:23])[O:24][CH3:25],water,298.15,15.060543866304474,-76.89111980692489
4341,4962,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]#[N:20])[NH:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:21]([CH3:22])=[O:23],water,298.15,23.11758734133803,-5.50171714411212
391,423,[CH3:9][CH:10]=[N+:11]([CH3:12])[C-:13]([C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:14]([CH3:15])=[O:16])([C:17]([CH3:18])=[O:19])[N:11]([CH3:12])[CH:10]2[CH3:9],water,298.15,22.730508910332503,-20.823738018955208
